US05663053
A solution of 1,4,5-triphenyl-2-(7-bromoheptyloxy)-imidazole (2.0 g) in ethanol (10 ml) was refiuxed with a solution of sodium sulphite (0.55 g) in water (5 ml) for 20 hours. More sodi,,m sulphite (0.2 g) in water (1 ml) was added and refiuxed a further 20 hours. The mixture was evaporated to dryness, boiling ethanol added and filtered hot. Chromatography of the flitrate on silica gel (dichloromethane/methanol 5:1) followed by crystallisation from ethanol/isopropanol gave sodium 7-(1,4,5-triphenylimidazol-2-yloxy)heptanesulphonate (0.3 g, 15%) as a colourless solid, m.p. 246-8° C. Found: C, 64.47; H, 5.85; N, 5.09; S, 5.50%; C28H29N2Na04S +2% isopropanol +2% water; Requires: C, 64.19; H, 5.96; N, 5.25; S, 6.01%.

reactant | 1,4,5-triphenyl-2-(7-bromoheptyloxy)-imidazole | 2.0 g | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCBr | C28H29BrN2O
reactant | sodium sulphite | 0.55 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sulphite | 0.2 g | S(=O)([O-])[O-]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | sodium 7-(1,4,5-triphenylimidazol-2-yloxy)heptanesulphonate | 0.3 g, 15% | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCS(=O)(=O)[O-].[Na+] | InChI=1S/C28H30N2O4S.Na/c31-35(32,33)22-14-3-1-2-13-21-34-28-29-26(23-15-7-4-8-16-23)27(24-17-9-5-10-18-24)30(28)25-19-11-6-12-20-25;/h4-12,15-20H,1-3,13-14,21-22H2,(H,31,32,33);/q;+1/p-1
